US07592358B2
22.1c. 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-carboxylic acid
22.3 mL of 1N NaOH was added to a suspension of 3.0 g (7.43 mmol) of methyl 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-carboxylate in 100 mL of EtOH and the reaction mixture was stirred overnight at RT. The reaction solution was cooled to 0° C. and adjusted to pH 6 by the dropwise addition of 1N HCl. The precipitated product was filtered off, washed with EtOH, and dried in the air. As the product still contained educt, the hydrolysis described above was repeated. Yield: 2.7 g (93% of theoretical); C22Hl2ClNO2S (M=389.855); calc.: molpeak (M+H)+: 390/392 (Cl); found: molpeak (M+H)+: 390/392 (Cl); Rf value: 0.89 (silica gel, PE/EtOAc 1:1).

reactant | NaOH | 1N, 22.3 mL | [OH-].[Na+]
reactant | methyl 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-carboxylate | 7.43 mmol, 3.0 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC2=C(SC(=C2)C(=O)OC)C=C1 | C23H14ClNO2S
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]benzo[b]thiophen-2-carboxylic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC2=C(SC(=C2)C(=O)O)C=C1 | C22H12ClNO2S
